2187-10-15 23:53:00 Physician Attending Progress Note
Chief Complaint: altered mental status, epidural abscesses
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65W admitted with altered mental status and worsening back pain. First
   got sick 1 week ago and was seen for her back pain. Given pain meds and
   tamiflu for myalgias and fevers. Became more somnolent over past [**12-26**]
   days, taking in less and less PO's. Brought in to ER last night - WBC
   20, creatinine > 5, afebrile. Rash noted. She was given 4 antibiotics
   and IVF.
   Transferred to [**Hospital1 **] - vitals stable though somnolent and confused. Rash
   again noted. Head CT unremarkable. Spinal MRI - multiple epidural
   collections. Ortho felt no surgical intervention needed.
   Multiple lab abnormalities including lactic acidosis, renal failure and
   abnormal LFTs and thrombocytopenia. Received further antibiotics.
   History obtained from housestaff
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2187-10-15**] 09:42 PM
   Ceftriaxone - [**2187-10-15**] 10:16 PM
   Doxycycline - [**2187-10-15**] 11:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   sciatica
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2187-10-15**] 11:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 94 (94 - 100) bpm
   BP: 103/52(63) {101/52(62) - 107/59(70)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             628 mL
   PO:
             TF:
   IVF:
   628 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    240 mL
   Urine:
   240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    388 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///12/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: likely meningismus, perrl
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash:
   Neurologic: unresponsive
   Labs / Radiology
   11.8 g/dL
   57 K/uL
   169 mg/dL
   4.9 mg/dL
   12 mEq/L
   5.0 mEq/L
   138 mg/dL
   102 mEq/L
   136 mEq/L
   35.7 %
   10.9 K/uL
        [image002.jpg]
                            [**2187-10-15**]  08:14 PM
   WBC
   10.9
   Hct
   35.7
   Plt
   57
   Cr
   4.9
   TropT
   0.04
   Glucose
   169
   Other labs: PT / PTT / INR:12.8/25.3/1.1, CK / CKMB /
   Troponin-T:1532/33/0.04, ALT / AST:149/131, Alk Phos / T Bili:141/3.6,
   Amylase / Lipase:20/, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:9.0
   %, Mono:8.0 %, Eos:0.0 %, Fibrinogen:812 mg/dL, Lactic Acid:2.4 mmol/L,
   Ca++:7.5 mg/dL, Mg++:3.3 mg/dL, PO4:4.1 mg/dL
   Spinal MRI
 multifocal small collections ? epidural abscesses versus
   hematomas
   CXR unremarkable
   Abd CT
 small effusions, otherwise prelim negative
   Head CT normal
   Assessment and Plan
   Encephalopathy, epidural abscesses, meningismus, rash
 presentation
   compatible with epidural abscess with meningoencephalitis. On broad
   spectrum antibiotics for what appears to be a disseminated infection.
   Scenario seems more compatible with bacterial infection. No supporting
   evidence for cancer, vasculitis a consideration. Will await micro eval,
   continue antibiotics. Obtain echo in AM. Repeat head imaging in AM.
   Renal failure
 improving with IVF
   Acidosis
 gap and lactic acid improving, continue volume resuscitation
   Elevated LFTs
 continue to follow, consider RUQ u/s
   Thrombocytopenia
 heme did not see schistos, follow, likely related to
   infection, no evidence of DIC
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-10-15**] 07:34 PM
   20 Gauge - [**2187-10-15**] 07:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :icu
   Total time spent: 38

2187-10-16 09:19:00 Physician Attending Progress Note
Chief Complaint: epidural abscess, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo women with h/o chronic back pain.  Presented 1 week PTA with
   fevers and back pain.  Then pain worsened on Friday, and increasingly
   somnolent over weekend with decreased PO intake.  Sunday went to ED.
   Patient denied photophobia or neck stiffness.  at ED 99.6, 91% on RA,
   Hemodynamically stable.  Got Vanco/Ctx/flagyl/clindamcyin.  WBC 20K,
   20% bands.  + U/A.  Send to [**Hospital1 5**]. 98% on RA here, but RR 30.  She was
   alert and cooperative at OSH, but at BIDMD was somnolent.  MRI found
   multiple diffuse epidural collections, mostly in thoracici spine, and
   one each in cervical and lumbar spine.  Lactate was elevated.  Got
   vanco/CTX.  Blood cx drawn.  Heme/onc consulted for ? of TTP.  In MICU
   was somnolent, but arousable, would only answer yes when asked if she
   had pain.
   Overnight LP was considered, but held off due to concern of abscesses.
   MRI was noncontrast due to Creatinine of 5.7.  Got fluid,
   Vanco/CTX/Ampicillin/acyclovir/doxycycline.
   24 Hour Events:
 NASAL SWAB - At [**2187-10-15**] 07:35 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2187-10-15**] 09:42 PM
   Ceftriaxone - [**2187-10-15**] 10:16 PM
   Doxycycline - [**2187-10-16**] 12:00 AM
   Acyclovir - [**2187-10-16**] 01:59 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMHX:  Sciatic
   no surgeries
   Meds at home: Tylenol, recently on tamiflu, vicodin, percocet
   ShX:
   Principle at school
   No ETOH, no drug use, no smoking.
   Son lives in [**State 3170**] coming today.
   FHx: noncontributory for infections
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2187-10-16**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 98 (94 - 103) bpm
   BP: 126/59(72) {101/52(62) - 129/65(80)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    606 mL
                                                                  2,480 mL
   PO:
             TF:
   IVF:
                                                                    606 mL
                                                                  2,480 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                    945 mL
   Urine:
                                                                    240 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                  1,535 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: 7.35/31/86.[**Numeric Identifier 253**]/15/-7
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no neck stiffness on flexion
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand, no pain on leg extension
   Skin:  Warm, pustular lesions over LE
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, answers yes
   to some questions
   Labs / Radiology
   11.3 g/dL
   68 K/uL
   169 mg/dL
   4.0 mg/dL
   15 mEq/L
   4.4 mEq/L
   131 mg/dL
   105 mEq/L
   138 mEq/L
   33.1 %
   9.3 K/uL
        [image002.jpg]
                            [**2187-10-15**]  08:14 PM
                            [**2187-10-16**]  01:39 AM
                            [**2187-10-16**]  04:39 AM
   WBC
   10.9
   9.3
   Hct
   35.7
   33.1
   Plt
   57
   68
   Cr
   4.9
   4.0
   TropT
   0.04
   TCO2
   18
   Glucose
   169
   169
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:1532/33/0.04, ALT / AST:129/112, Alk Phos / T Bili:118/3.1,
   Amylase / Lipase:20/, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:8.0
   %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:812 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:624 IU/L, Ca++:7.1 mg/dL, Mg++:3.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
   Overall picture may be explained by bacteremia or systemic infection
   leading to epidural abscess, decreased mental status, decreased PO and
   leading to renal failure.
   Other unusual infections possible given rash, but rash may be reaction
   to system infection.
   Back pain/epidural abscess:  Likely due to staph if present.  Will get
   IR to sample fluid.  Cover for meningitis for now.  Will see if IR can
   also do LP in a position
   where there is lower risk to see infection.
   -   Continue Vanco/CTX/ampicillin/acyclovir
   -   Head MRI
   -   ID consult.
   Acute renal failure:  likely prerenal.  No evidence of TTP on smear.
   Continue aggressive IVF hydration - getting LR at 250cc/hr
   Rash:  dermatology consult.  [**Month (only) 8**] be reaction to systemic infection.
   Can check rheum panel.
   thrombocytopenia:  may be due to consumption such as DIC, although
   smear had no evidence and FDP is normal making this unlikely.  [**Month (only) 8**] be a
   platelet production problem.
   AG acidosis:  likely due to lactate and renal failure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-10-15**] 07:34 PM
   18 Gauge - [**2187-10-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient also with continued delirium.   IR notes LP is low risk, so
   will go ahead and try at bedside.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2187-10-16**] 16:08 ------

2187-10-17 06:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   65F with history of chronic back pain presenting with back pain and
   altered mental status, found to have multiple, small epidural
   collections, acute renal failure, transaminitis and thrombocytopenia.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2187-10-16**] 09:01 AM
 ULTRASOUND - At [**2187-10-16**] 09:35 AM
 MAGNETIC RESONANCE IMAGING - At [**2187-10-16**] 10:00 AM
 LUMBAR PUNCTURE - At [**2187-10-16**] 06:06 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-16**] 09:45 AM
   Ampicillin - [**2187-10-16**] 05:17 PM
   Doxycycline - [**2187-10-16**] 09:10 PM
   Ceftriaxone - [**2187-10-16**] 10:08 PM
   Acyclovir - [**2187-10-17**] 01:03 AM
   Vancomycin - [**2187-10-17**] 02:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2187-10-17**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 100 (93 - 106) bpm
   BP: 139/58(76) {113/44(61) - 145/82(92)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 57.4 kg
             Total In:
                                                                  9,262 mL
                                                                  3,832 mL
   PO:
             TF:
   IVF:
                                                                  9,262 mL
                                                                  3,832 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                    750 mL
   Urine:
                                                                  3,550 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,712 mL
                                                                  3,082 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   GEN: Lethargic, thin woman lying in MICU bed
   PULM: Decreased BS on R
   CV: NRRR no mumrurs
   ABD:Not distended, soft, BS present
   EXTR:no edema, distal pulses present
   SKIN: pustules w/ pupuric bases.  10cm nonblanching purpuric necrosing
   lesion on back and ankle
   NEURO/MENTAL STATUS: Oriented to voice, but not command
   Labs / Radiology
   39 K/uL
   9.3 g/dL
   172 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.2 mEq/L
   86 mg/dL
   115 mEq/L
   147 mEq/L
   26.7 %
   4.9 K/uL
        [image002.jpg]
                            [**2187-10-15**]  08:14 PM
                            [**2187-10-16**]  01:39 AM
                            [**2187-10-16**]  04:39 AM
                            [**2187-10-16**]  03:20 PM
                            [**2187-10-17**]  02:33 AM
                            [**2187-10-17**]  04:38 AM
   WBC
   10.9
   9.3
   4.9
   Hct
   35.7
   33.1
   31.0
   26.7
   Plt
   57
   68
   39
   Cr
   4.9
   4.0
   2.7
   1.3
   1.5
   TropT
   0.04
   TCO2
   18
   Glucose
   169
   169
   143
   159
   172
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:1532/33/0.04, ALT / AST:83/57, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:20/, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:812 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:624 IU/L, Ca++:8.0 mg/dL, Mg++:2.8 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: [**2187-10-16**] 05:11PM CEREBROSPINAL FLUID (CSF)
   WBC-81 RBC-1084* Polys-86 Bands-3 Lymphs-10 Monos-1
   [**2187-10-16**] 05:11PM CEREBROSPINAL FLUID (CSF) WBC-200 RBC-1280* Polys-85
   Bands-4 Lymphs-9 Monos-2
   [**2187-10-16**] 05:11PM CEREBROSPINAL FLUID (CSF) TotProt-539* Glucose-21
   [**2187-10-16**] 05:11PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS PCR-PND
   [**2187-10-16**] 09:22AM URINE RBC-[**5-2**]* WBC-[**1-25**] Bacteri-FEW Yeast-NONE Epi-0-2
   [**2187-10-15**] 09:50AM URINE RBC-21-50* WBC-[**5-2**]* Bacteri-MOD Yeast-NONE
   Epi-0-2
   Imaging: CXR [**10-16**]
   Impression: Progression of left-sided atypical parenchymal infiltrates
   and appearance of new small patchy infiltrates on the right lung base
   as well. Consider possibility of septicemia in patient with epidural
   abscess.
   MRI Head:
   IMPRESSION: There is no evidence of acute intracranial process,
   hemorrhage, or diffusion abnormalities. Mild mucosal thickening is
   identified at the floor of the left maxillary sinus without fluid
   level.
   Abdominal U/S:
   IMPRESSION: Distended gallbladder, no specific signs of cholecystitis.
   ECHO:
   IMPRESSION: No vegetations or clinically-significant regurgitant
   valvular disease seen (reasonable-quality study). Normal global and
   regional biventricular systolic function. Mild pulmonary hypertension.
   In presence of high clinical suspicion, absence of vegetations on
   transthoracic echocardiogram does not exclude endocarditis.
   Microbiology: [**2187-10-16**] 5:36 pm SWAB      Source: right arm pustule.
   GRAM STAIN (Final [**2187-10-16**]):     NO POLYMORPHONUCLEAR LEUKOCYTES
   SEEN.     1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   [**2187-10-16**] 5:11 pm CSF; SPINAL FLUID      Source: LP 3.
   ** GRAM STAIN (Final [**2187-10-16**]):   1+    (<1 per 1000X FIELD):
   POLYMORPHONUCLEAR LEUKOCYTES.    NO MICROORGANISMS SEEN.
   **CRYPTOCOCCAL ANTIGEN (Final [**2187-10-16**]):   CRYPTOCOCCAL ANTIGEN NOT
   DETECTED.
   [**2187-10-15**] 9:50 am URINE CULTURE (Preliminary):   STAPH AUREUS COAG +.
   10,000-100,000 ORGANISMS/ML.
    RAPID PLASMA REAGIN TEST (Final [**2187-10-17**]):     NONREACTIVE.
   Lyme and Blood cultures pending.
   Assessment and Plan
   65F with history of chronic back pain presenting with back pain and
   altered mental status, found to have multiple, small epidural
   collections, acute renal failure, transaminitis and thrombocytopenia.
   .
   #. Epidural abscesses: Her multiple abscesses are most worrisome for
   bacterial seeding of her spine.  It seems unlikely that she would have
   multiple hemorrhages as she has not had recent trauma and is not
   severely thrombocytopenic.  It also does not have the appearance of
   metastasis.  Most likely bacteria are staph aureus and strep species
   from a skin infection, dental abscess or endocarditis.  Urine culture
   with staph aureus is likely source.  Also concerning for meningitis
   with local spread.  Head MRI unrevealing and TTE found no endocarditis.
   - Cover broadly for possible meningitis with ceftriaxone 2gm IV Q12,
   vanco (already received 2 doses in setting of renal failure),
   ampicillin 2g Q12 (given age), acyclovir 600mg daily.
   - can increase vanco to q24 and acyclovir to q12 given improving renal
   function
   - discontinue doxycycline
   - ID strongly recommends vancomycin; consider tailoring down antibiotic
   regimen soon
   - No TEE for now, as [**Male First Name (un) **]
t feel it would change management per se
   .
   #. Altered mental status: The patient's altered mental status is
   concerning for encephalitis or bacterial emboli to her brain.  She does
   not appear to have focal deficits on neurologic exam though she is not
   cooperative.  LP done with cell counts concerning for infection.  Her
   MR head did not reveal any masses, etc.
   - continue to treat infection.
   - replete electrolytes as needed.
   .
   #. Acute renal failure: Appears to have component of prerenal and ATN.
   There is improvement with IV fluid suggesting prerenal, but a FeNa of
   1.4 sugesting ATN.  There could be a component of pyelonephritis or,
   given her rash, vasculitis, though these seem less likely.  There is no
   evidence of hydronephrosis on CT scan.
   - had been aggressively rehydrating with LR
 discontinued this AM; can
   restart NS w/ goal of 100cc UOP/ hour d/t acyclovir
   - trend creatinine.
   - f/u urine culture.
   - [**Doctor First Name **], ANCA and vasculitis work-up tests sent and need to be followed
   up
   - renal following and recommended urine lytes at this time
   .
   #. Rash: Appears as tiny pustules with purpuric base.  Most likely
   related to an infectious process. Less likely vasculitis or drug
   reaction.  Appear too small to allow for gram stain or DFA of vesicles.
   Dermatology was consulted
 they did swab of one of the pustules (PMN
   and strep in chains).
   - treat infection as above
   - f/u derm recs
   - consider derm biopsy today; touch base with ID regarding role for
   biopsy
   .
   #. Transaminitis: most likely from poor perfusion in the setting of
   dehydration, or billiary sludging in the setting of SIRS.  Less likely
   viral infection or autoimmune.  RUQ showed gallbladder was distended,
   but no other significant findings.  Transaminitis is increased this
   morning.
   - continue to trend
   - IV hydration
   .
   #. Thrombocytopenia: in combination with direct bilirubinemia was
   concerning for consumptive process like TTP or DIC (continue to keep
   these in the differential).  No schistocytes on smear, and no acutely
   worsening anemia.  Most likely due to poor production in the setting of
   infection, though this would suggest a sub-acute infection like
   endocarditis or a primary abscess. Platelets decreased this morning.
   - continue to trend.
   - transfuse for platelets <10 or <50 in setting of procedure (such as
   LP).
   - appreciate Heme-Onc suggestions/rec
   -repeat DIC w/u : fibrinogen/haptoglobin/smear/coags
   .
   #. Hypoxia/PNA: Patient was 98% on room air on admission and is now 94%
   on a shovel mask with 50% FiO2.  Does not have picture suggestive for
   PE.  Most likely d/t infectious involvement of lung seen on CXR.
   - repeat CXR tomorrow.
   - if hypoxia worsens, hold fluids and consider lasix
   - continue to treat infection
   .
   # Anion gap acidosis: Patient has an anion gap acidosis that is closing
   with hydration.
   - aggressive rehydration as above
   - repeat ABG today to re-assess
   .
   FEN: NS at 100cc/hour, replete electrolytes, NPO for now, try to keep
   urine output 100cc/hour given ARF and on nephrotoxins (like acyclovir).
   Prophylaxis: Hold subcutaneous heparin, given worsening
   thrombocytopenia. Pneumoboots.
   Access: Peripherals
   Code:  Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**]).
   Disposition: Pending clinical improvement

2187-10-17 09:46:00 Physician Attending Progress Note
Chief Complaint: delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo women admitted with LBP, altered MS, fevers.  LP done yesterday
   consistent with meningitis.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2187-10-16**] 09:01 AM
 ULTRASOUND - At [**2187-10-16**] 09:35 AM
 MAGNETIC RESONANCE IMAGING - At [**2187-10-16**] 10:00 AM
 LUMBAR PUNCTURE - At [**2187-10-16**] 06:06 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-16**] 09:45 AM
   Doxycycline - [**2187-10-16**] 09:10 PM
   Ceftriaxone - [**2187-10-16**] 10:08 PM
   Acyclovir - [**2187-10-17**] 01:03 AM
   Vancomycin - [**2187-10-17**] 02:03 AM
   Ampicillin - [**2187-10-17**] 06:57 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2187-10-17**] 04:36 AM
   Other medications:
   doxycycline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-17**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 104 (93 - 106) bpm
   BP: 147/62(80) {113/44(61) - 147/82(92)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 57.4 kg
             Total In:
                                                                  9,362 mL
                                                                  4,400 mL
   PO:
             TF:
   IVF:
                                                                  9,362 mL
                                                                  4,400 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                  1,100 mL
   Urine:
                                                                  3,550 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,812 mL
                                                                  3,300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash: Pustular rash over back and legs with some petechia
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, moves toes
   and hands.  Moves right hand less
   Labs / Radiology
   9.3 g/dL
   39 K/uL
   172 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.2 mEq/L
   86 mg/dL
   115 mEq/L
   147 mEq/L
   26.7 %
   4.9 K/uL
        [image002.jpg]
                            [**2187-10-15**]  08:14 PM
                            [**2187-10-16**]  01:39 AM
                            [**2187-10-16**]  04:39 AM
                            [**2187-10-16**]  03:20 PM
                            [**2187-10-17**]  02:33 AM
                            [**2187-10-17**]  04:38 AM
   WBC
   10.9
   9.3
   4.9
   Hct
   35.7
   33.1
   31.0
   26.7
   Plt
   57
   68
   39
   Cr
   4.9
   4.0
   2.7
   1.3
   1.5
   TropT
   0.04
   TCO2
   18
   Glucose
   169
   169
   143
   159
   172
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:1532/33/0.04, ALT / AST:83/57, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:20/, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:812 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:624 IU/L, Ca++:8.0 mg/dL, Mg++:2.8 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: CSF: Protein 531, WBC 81, 86% neutrophlis
   Microbiology: urine with staph aureus
   echo: no vegetations
   Assessment and Plan
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
   Meningitis
   Epidural asbcess
   Pustular skin rash
   Picture consistent with disseminated staph infection given staph in
   urine.  Continue current antibiotics until cultures final.  Continue
   acyclovir until
   HSV returns.
   Acute renal failure:  improving with IVF, likely has post-ATN diuresis.
   AG: acidosis improving
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-10-15**] 07:34 PM
   18 Gauge - [**2187-10-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2187-10-18 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Staph sepsis
   24 Hour Events:
 URINE CULTURE - At [**2187-10-17**] 03:30 PM
 BLOOD CULTURED - At [**2187-10-17**] 03:30 PM
 FEVER - 101.1
F - [**2187-10-17**] 05:00 PM
   - ID recs re: skin biopsy --> does not need
   - Heme/onc recs: fractionate bili (tomorrow's labs). No shistos on
   smear, few tear drops and few helmets, large platelets
   - Neuro recs: repeat MRI when able to get contrast. Consider EEG if
   seen to have seizure activity.  Consider cytology on CSF if this
   continues.
   - Renal recs: continue to correct
   - ABG
   - skin biopsy done b/c patient still spiking fevers on antibiotics.
   - goal UOP >100/hr  --> switching to LR due to very irregular labs
   - f/u OSH cultures: staph aureus in 2 complete sets blood,
   sensitivities pending -->
   - repeat Hct stable.
   - f/u Imaging
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-16**] 09:45 AM
   Doxycycline - [**2187-10-17**] 08:49 AM
   Vancomycin - [**2187-10-17**] 07:46 PM
   Ceftriaxone - [**2187-10-17**] 10:00 PM
   Ampicillin - [**2187-10-18**] 12:00 AM
   Acyclovir - [**2187-10-18**] 01:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2187-10-17**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-18**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 104 (98 - 113) bpm
   BP: 149/67(85) {132/59(78) - 157/80(94)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 57.4 kg
   Height: 65 Inch
             Total In:
                                                                  6,800 mL
                                                                  1,049 mL
   PO:
             TF:
   IVF:
                                                                  6,800 mL
                                                                  1,049 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                    700 mL
   Urine:
                                                                  2,980 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,820 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   67 K/uL
   10.9 g/dL
   175 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.1 mEq/L
   75 mg/dL
   116 mEq/L
   148 mEq/L
   31.3 %
   5.0 K/uL
        [image002.jpg]
                            [**2187-10-15**]  08:14 PM
                            [**2187-10-16**]  01:39 AM
                            [**2187-10-16**]  04:39 AM
                            [**2187-10-16**]  03:20 PM
                            [**2187-10-17**]  02:33 AM
                            [**2187-10-17**]  04:38 AM
                            [**2187-10-17**]  02:55 PM
                            [**2187-10-18**]  06:01 AM
   WBC
   10.9
   9.3
   4.9
   5.0
   Hct
   35.7
   33.1
   31.0
   26.7
   30.8
   31.3
   Plt
   57
   68
   39
   67
   Cr
   4.9
   4.0
   2.7
   1.3
   1.5
   1.1
   TropT
   0.04
   TCO2
   18
   Glucose
   169
   169
   143
   159
   172
   175
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:1532/33/0.04, ALT / AST:83/57, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:20/, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:569 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:487 IU/L, Ca++:8.0 mg/dL, Mg++:2.8 mg/dL, PO4:2.0 mg/dL
   Imaging: [**10-17**] CXR: interval worsening of mild-to-moderate pulmonary
   edema; chronic interstitial lung disease may be present.
   [**10-18**] CXR: possible improvement in left sided opacity.
   Microbiology: [**10-15**] urine: MSSA
   [**10-16**] skin: coag + staph
   [**10-16**] CSF: no organisms, cryptococcus negative.
   [**10-17**] skin bx: no organisms, cultures pending.
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
   65F with history of chronic back pain presenting with back pain and
   altered mental status, found to have multiple, small epidural
   collections, acute renal failure, transaminitis and thrombocytopenia.
   .
   #. Epidural abscesses: Her multiple abscesses are most worrisome for
   bacterial seeding of her spine.  It seems unlikely that she would have
   multiple hemorrhages as she has not had recent trauma and is not
   severely thrombocytopenic.  It also does not have the appearance of
   metastasis.  Most likely bacteria are staph aureus and strep species
   from a skin infection, dental abscess or endocarditis.  Urine culture
   with staph aureus is likely source.  Also concerning for meningitis
   with local spread.  Head MRI unrevealing and TTE found no endocarditis.
   - Cover broadly for possible meningitis with ceftriaxone 2gm IV Q12,
   vanco (already received 2 doses in setting of renal failure),
   ampicillin 2g Q12 (given age), acyclovir 600mg daily.
   - can increase vanco to q24 and acyclovir to q12 given improving renal
   function
   - discontinue doxycycline
   - ID strongly recommends vancomycin; consider tailoring down antibiotic
   regimen soon
   - No TEE for now, as [**Male First Name (un) **]
t feel it would change management per se
   .
   #. Altered mental status: The patient's altered mental status is
   concerning for encephalitis or bacterial emboli to her brain.  She does
   not appear to have focal deficits on neurologic exam though she is not
   cooperative.  LP done with cell counts concerning for infection.  Her
   MR head did not reveal any masses, etc.
   - continue to treat infection.
   - replete electrolytes as needed.
   .
   #. Acute renal failure: Appears to have component of prerenal and ATN.
   There is improvement with IV fluid suggesting prerenal, but a FeNa of
   1.4 sugesting ATN.  There could be a component of pyelonephritis or,
   given her rash, vasculitis, though these seem less likely.  There is no
   evidence of hydronephrosis on CT scan.
   - had been aggressively rehydrating with LR
 discontinued this AM; can
   restart NS w/ goal of 100cc UOP/ hour d/t acyclovir
   - trend creatinine.
   - f/u urine culture.
   - [**Doctor First Name **], ANCA and vasculitis work-up tests sent and need to be followed
   up
   - renal following and recommended urine lytes at this time
   .
   #. Rash: Appears as tiny pustules with purpuric base.  Most likely
   related to an infectious process. Less likely vasculitis or drug
   reaction.  Appear too small to allow for gram stain or DFA of vesicles.
   Dermatology was consulted
 they did swab of one of the pustules (PMN
   and strep in chains).
   - treat infection as above
   - f/u derm recs
   - consider derm biopsy today; touch base with ID regarding role for
   biopsy
   .
   #. Transaminitis: most likely from poor perfusion in the setting of
   dehydration, or billiary sludging in the setting of SIRS.  Less likely
   viral infection or autoimmune.  RUQ showed gallbladder was distended,
   but no other significant findings.  Transaminitis is increased this
   morning.
   - continue to trend
   - IV hydration
   .
   #. Thrombocytopenia: in combination with direct bilirubinemia was
   concerning for consumptive process like TTP or DIC (continue to keep
   these in the differential).  No schistocytes on smear, and no acutely
   worsening anemia.  Most likely due to poor production in the setting of
   infection, though this would suggest a sub-acute infection like
   endocarditis or a primary abscess. Platelets decreased this morning.
   - continue to trend.
   - transfuse for platelets <10 or <50 in setting of procedure (such as
   LP).
   - appreciate Heme-Onc suggestions/rec
   -repeat DIC w/u : fibrinogen/haptoglobin/smear/coags
   .
   #. Hypoxia/PNA: Patient was 98% on room air on admission and is now 94%
   on a shovel mask with 50% FiO2.  Does not have picture suggestive for
   PE.  Most likely d/t infectious involvement of lung seen on CXR.
   - repeat CXR tomorrow.
   - if hypoxia worsens, hold fluids and consider lasix
   - continue to treat infection
   .
   # Anion gap acidosis: Patient has an anion gap acidosis that is closing
   with hydration.
   - aggressive rehydration as above
   - repeat ABG today to re-assess
   .
   FEN: NS at 100cc/hour, replete electrolytes, NPO for now, try to keep
   urine output 100cc/hour given ARF and on nephrotoxins (like acyclovir).
   Prophylaxis: Hold subcutaneous heparin, given worsening
   thrombocytopenia. Pneumoboots.
   Access: Peripherals
   Code:  Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**]).
   Disposition: Pending clinical improvement

2187-10-18 11:35:00 Physician Attending Progress Note
Chief Complaint: delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo women with chronic LBP, admitted with Staph bacteremia.
   Evidence of meningitis, small epidural abscesses.  Still spiking
   fevers.   Mental status improving. Had skin biopsy yesterday.
   24 Hour Events:
 URINE CULTURE - At [**2187-10-17**] 03:30 PM
 BLOOD CULTURED - At [**2187-10-17**] 03:30 PM
 FEVER - 101.1
F - [**2187-10-17**] 05:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-16**] 09:45 AM
   Doxycycline - [**2187-10-17**] 08:49 AM
   Vancomycin - [**2187-10-17**] 07:46 PM
   Ampicillin - [**2187-10-18**] 12:00 AM
   Acyclovir - [**2187-10-18**] 01:00 AM
   Ceftriaxone - [**2187-10-18**] 10:04 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2187-10-17**] 06:00 PM
   Other medications:
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-10-18**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 104 (98 - 113) bpm
   BP: 141/76(89) {137/59(78) - 157/82(95)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 57.4 kg
   Height: 65 Inch
             Total In:
                                                                  6,800 mL
                                                                  1,119 mL
   PO:
             TF:
   IVF:
                                                                  6,800 mL
                                                                  1,119 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                  1,195 mL
   Urine:
                                                                  2,980 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,820 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash: pustular with some hemorrhage
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): place only, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   67 K/uL
   204 mg/dL
   0.9 mg/dL
   25 mEq/L
   5.0 mEq/L
   60 mg/dL
   118 mEq/L
   150 mEq/L
   31.3 %
   5.0 K/uL
        [image002.jpg]
                            [**2187-10-15**]  08:14 PM
                            [**2187-10-16**]  01:39 AM
                            [**2187-10-16**]  04:39 AM
                            [**2187-10-16**]  03:20 PM
                            [**2187-10-17**]  02:33 AM
                            [**2187-10-17**]  04:38 AM
                            [**2187-10-17**]  02:55 PM
                            [**2187-10-18**]  06:01 AM
   WBC
   10.9
   9.3
   4.9
   5.0
   Hct
   35.7
   33.1
   31.0
   26.7
   30.8
   31.3
   Plt
   57
   68
   39
   67
   Cr
   4.9
   4.0
   2.7
   1.3
   1.5
   1.1
   0.9
   TropT
   0.04
   TCO2
   18
   Glucose
   169
   169
   143
   159
   172
   175
   204
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:1532/33/0.04, ALT / AST:69/58, Alk Phos / T Bili:72/1.8,
   Amylase / Lipase:20/, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:569 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:487 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
   Delerium
   Acute renal failure
   Meningitis
   pustular skin rash
   epidural abscess
   thrombocytopenia
   Continued improvement.  MS improved.  Picture likely explained by
   desseminated MSSA infection.  Will discuss with ID about pearing down
   antibiotics.
   hypernatremia:  change over to D5W for IVF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-10-15**] 07:34 PM
   18 Gauge - [**2187-10-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2187-10-19 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: MSSA bacteremia
   24 Hour Events:
   - OSH blood cultures show MSSA as well (in chart)
   - ID ok with changing to nafcillin.  Would like to wait until 48 hours
   after LP cultures sent, so start tonight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-16**] 09:45 AM
   Doxycycline - [**2187-10-17**] 08:49 AM
   Vancomycin - [**2187-10-18**] 07:58 PM
   Ceftriaxone - [**2187-10-18**] 11:11 PM
   Acyclovir - [**2187-10-19**] 12:00 AM
   Ampicillin - [**2187-10-19**] 06:21 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2187-10-18**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-19**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 106 (95 - 112) bpm
   BP: 145/75(92) {121/57(76) - 153/87(96)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 57.4 kg
   Height: 65 Inch
             Total In:
                                                                  3,495 mL
                                                                  1,161 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,435 mL
                                                                  1,161 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    575 mL
   Urine:
                                                                  2,350 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,145 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   92 K/uL
   10.4 g/dL
   212 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   50 mg/dL
   115 mEq/L
   147 mEq/L
   30.8 %
   4.9 K/uL
        [image002.jpg]
                            [**2187-10-15**]  08:14 PM
                            [**2187-10-16**]  01:39 AM
                            [**2187-10-16**]  04:39 AM
                            [**2187-10-16**]  03:20 PM
                            [**2187-10-17**]  02:33 AM
                            [**2187-10-17**]  04:38 AM
                            [**2187-10-17**]  02:55 PM
                            [**2187-10-18**]  06:01 AM
                            [**2187-10-19**]  02:30 AM
   WBC
   10.9
   9.3
   4.9
   5.0
   4.9
   Hct
   35.7
   33.1
   31.0
   26.7
   30.8
   31.3
   30.8
   Plt
   57
   68
   39
   67
   92
   Cr
   4.9
   4.0
   2.7
   1.3
   1.5
   1.1
   0.9
   0.7
   TropT
   0.04
   TCO2
   18
   Glucose
   169
   169
   143
   159
   172
   175
   204
   212
   Other labs: PT / PTT / INR:14.7/25.6/1.3, CK / CKMB /
   Troponin-T:1532/33/0.04, ALT / AST:52/44, Alk Phos / T Bili:62/1.4,
   Amylase / Lipase:20/, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:569 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:487 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Imaging:
   [**10-18**] CXR: Interval improvement of pulmonary edema, ? underlying infxn
   [**10-19**] CXR: unchanged
   Microbiology:
   Skin cx: MSSA
   Blood cx pending
   CSF cx prelim negative
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
   65F with history of chronic back pain presenting with back pain and
   altered mental status, found to have multiple, small epidural
   collections, acute renal failure, transaminitis and thrombocytopenia.
   .
   #. Bacteremia: Appears to be staph aureus seeding of her spine.  It
   does not have the appearance of metastasis.  Unclear what the source
   is.  Most likely secondary seeding of urine and skin.  Also concerning
   for meningitis with local spread.  Head MRI unrevealing and TTE found
   no endocarditis.  There is some concern for a second organism
   considering she continued to spike fevers through yesterday.  Though
   her clinical picture is improving, we will continue with the current
   antibiotics until she is afebrile, then we will consider changing over
   to nafcillin for an expected 6 week course.
   - narrow antibiotics to just nafcillin.
   - repeat spinal MRI w/contrast to reassess spinal abscesses per spine
   service.
   - MRI head, per neuro, for AMS
   - discuss whether the results of a TEE would alter her course of
   antibiotics, or if we will be treating for 6 weeks either way.
   .
   #. Altered mental status: Mental status is dramatically improved
   today.  She does not appear to have focal deficits on neurologic exam
   though she is not cooperative.  LP done with cell counts concerning for
   infection.  Her MR head did not reveal any masses, etc.  Neurology was
   consulted yesterday and recommended a MRI w/ contrast when we are able.
   - continue to treat infection as above.
   - replete electrolytes as needed.
   - f/u neurology recs
   - MRI head
   .
   #. Acute renal failure: Appears to have component of prerenal and ATN.
   While she has improved dramatically, her FeNa of 1.4 suggested ATN.
   There could be a component of pyelonephritis or, given her rash,
   vasculitis, though these seem less likely.  There is no evidence of
   hydronephrosis on CT scan. Improved.
   - Today will give free water (D5W) at 100cc/hr for 2L for hypernatremia
   - trend creatinine
   - [**Doctor First Name **], ANCA and vasculitis work-up tests sent and need to be followed
   up
   - f/u renal recs
   .
   #. Rash: Appears as tiny pustules with purpuric base that grew out
   staph aureus on culture.  Most likely related to an infectious process.
   Less likely vasculitis or drug reaction.  More concerning are the
   necrotic patches that she developed on her back and ankle which could
   be a fungal process.  Two skin biopsies were done yesterday.
   - treat infection as above
   - f/u derm recs
   - f/u biopsy results.
   .
   #. Transaminitis: most likely from poor perfusion in the setting of
   dehydration, or billiary sludging in the setting of SIRS.  Currently
   improving.  RUQ showed gallbladder was distended, but no other
   significant findings.
   - continue to trend
   - IV hydration
   .
   #. Thrombocytopenia: continues to improve, suggesting that she could
   have improving production.  No signs at any point of TTP.
   - continue to trend.
   - transfuse for platelets <10 or <50 in setting of procedure (such as
   LP).
   - ok to start SQ heparin
   .
   # Tachycardia: Likely due to low-grade fever, in setting of septicemia.
   - Tylenol for fever; continue antibiotics
   .
   #. Hypoxia/PNA: Patient was 98% on room air on admission and is then
   developed O2 requirement.  Does not have picture suggestive for PE.
   Most likely d/t infectious involvement of lung seen on CXR.
   - repeat CXR tomorrow.
   - if hypoxia worsens, hold fluids and consider administration of lasix
   - continue to treat infection
   .
   FEN: D5W at 100cc/hour, replete electrolytes, NPO until she is more
   awake.
   Prophylaxis: Start subcutaneous heparin, given resolving
   thrombocytopenia. Pneumoboots.
   Access: Peripherals.  PICC placement.
   Code:  Full (discussed with husband)
   Communication: Patient, Husband [**Name (NI) 67**] [**Name (NI) **] ([**Telephone/Fax (1) 10125**]).
   Disposition: Call-out to floor.

2187-10-19 10:15:00 Physician Attending Progress Note
Chief Complaint: delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo women with disseminated staph infection.  overall improving.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2187-10-17**] 08:49 AM
   Vancomycin - [**2187-10-18**] 07:58 PM
   Ceftriaxone - [**2187-10-18**] 11:11 PM
   Acyclovir - [**2187-10-19**] 12:00 AM
   Ampicillin - [**2187-10-19**] 06:21 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2187-10-19**] 08:30 AM
   Other medications:
   SSI
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-10-19**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 103 (95 - 112) bpm
   BP: 140/76(90) {121/57(76) - 153/87(96)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 57.4 kg
   Height: 65 Inch
             Total In:
                                                                  3,495 mL
                                                                  1,207 mL
   PO:
                                                                     60 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  3,435 mL
                                                                  1,177 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    745 mL
   Urine:
                                                                  2,350 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,145 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.4 g/dL
   92 K/uL
   212 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   50 mg/dL
   115 mEq/L
   147 mEq/L
   30.8 %
   4.9 K/uL
        [image002.jpg]
                            [**2187-10-15**]  08:14 PM
                            [**2187-10-16**]  01:39 AM
                            [**2187-10-16**]  04:39 AM
                            [**2187-10-16**]  03:20 PM
                            [**2187-10-17**]  02:33 AM
                            [**2187-10-17**]  04:38 AM
                            [**2187-10-17**]  02:55 PM
                            [**2187-10-18**]  06:01 AM
                            [**2187-10-19**]  02:30 AM
   WBC
   10.9
   9.3
   4.9
   5.0
   4.9
   Hct
   35.7
   33.1
   31.0
   26.7
   30.8
   31.3
   30.8
   Plt
   57
   68
   39
   67
   92
   Cr
   4.9
   4.0
   2.7
   1.3
   1.5
   1.1
   0.9
   0.7
   TropT
   0.04
   TCO2
   18
   Glucose
   169
   169
   143
   159
   172
   175
   204
   212
   Other labs: PT / PTT / INR:14.7/25.6/1.3, CK / CKMB /
   Troponin-T:1532/33/0.04, ALT / AST:52/44, Alk Phos / T Bili:62/1.4,
   Amylase / Lipase:20/, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:569 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:487 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
   Delirium:
   Paraspinal abscess:  will get repeat C+T+L spine to assess fluid
   collections
   staph bacteremia:  can change over to oxacillin and await HSV PCR
   before stopping acyclovir
   acute renal failure:  almost back to baseline.
   hypernatremia:  continue free water as she continues having post-ATN
   diuresis
   PIC line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-10-15**] 07:34 PM
   18 Gauge - [**2187-10-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes